US05541032
Preparation of 4-methylphenacylpyridinium bromide
64 g (0.3 mol) of 4-methylphenacyl bromide in 80 ml acetone were initially taken and heated to 60° C. 24 g (0.3 mol) of pyridine were then slowly added dropwise. The reaction mixture was stirred for a further hour at 60° C. and cooled to room temperature. The precipitated solid was filtered off and washed with acetone. After drying, 82.5 g (corresponding to a yield of 94%) of the title compound were obtained in the form of a yellow powder. The purity of the product was more than 99%.

reactant | 4-methylphenacyl bromide | 0.3 mol, 64 g | CC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO
reactant | pyridine | 0.3 mol, 24 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 4-methylphenacylpyridinium bromide | yield of 94% | [Br-].CC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C14H14NO.BrH/c1-12-5-7-13(8-6-12)14(16)11-15-9-3-2-4-10-15;/h2-10H,11H2,1H3;1H/q+1;/p-1
